US07622461B2
N′-(8-Chloro-5H-dibenzo[b,e][1,4]diazepine-11-yl)-N,N-diethyl-ethane-1,2-diamine (160FE16E)
8-Chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepine-11-one (25 mg, 0.1 mmol) and N,N-diethylethylenediamine (58 mg, 0.5 mmol) were reacted according to GP4 to give 3.9 mg of the title compound (160FE16E). MS (ESI) 343 (MH+). Purity for MH+ (UV/MS) 99/94.

reactant | 8-Chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepine-11-one | 0.1 mmol, 25 mg | ClC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=O)C1 | C13H9ClN2O
reactant | N,N-diethylethylenediamine | 0.5 mmol, 58 mg | C(C)N(CCN)CC | C6H16N2
product | N′-(8-Chloro-5H-dibenzo[b,e][1,4]diazepine-11-yl)-N,N-diethyl-ethane-1,2-diamine | 3.9 mg | ClC=1C=CC2=C(N=C(C3=C(N2)C=CC=C3)NCCN(CC)CC)C1 | C19H23ClN4
